US06747023B1
1-tert-Butoxycarbonyl-4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]piperazine
To a solution of 5-chloro-1-phenylsulfonylindole-2-sulfonyl chloride (4.41 g) in dichloromethane (75 ml), tert-butyl-1-piperazine carboxylate (2.21 g) and triethylamine (1.65 ml) were added under ice cooling. The resulting mixture was stirred at room temperature for 3 hours. After completion of the reaction, water and dichloromethane were added to the reaction mixture. The organic layer so separated was dried over anhydrous sodium sulfate and then distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (ethyl acetate:n-hexane=1:20), whereby the title compound (3.63 g, 60%) was obtained as colorless crystals.

reactant | 5-chloro-1-phenylsulfonylindole-2-sulfonyl chloride | 4.41 g | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)Cl | C14H9Cl2NO4S2
reactant | tert-butyl-1-piperazine carboxylate | 2.21 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 1.65 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 1-tert-Butoxycarbonyl-4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C=1N(C2=CC=C(C=C2C1)Cl)S(=O)(=O)C1=CC=CC=C1 | C23H26ClN3O6S2
